US09399640B2
Step 5. 4-[7-(2,4-Difluorophenoxy)-2,5-dimethylpyrazolo[1,5-a]pyrimidin-6-yl]-6-methyl-1-[(4-methylphenyl)sulfonyl]-1,6-dihydro-7H-pyrrolo[2,3-c]pyridin-7-one
This compound was synthesized according to the procedure of Example 10, Step 5, using 6-bromo-7-(2,4-difluorophenoxy)-2,5-dimethylpyrazolo[1,5-a]pyrimidine and 6-methyl-1-[(4-methylphenyl)sulfonyl]-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,6-dihydro-7H-pyrrolo[2,3-c]pyridin-7-one as the starting materials. LCMS calculated for C29H24F2N5O4S (M+H)+: m/z=576.1. found: 576.1.

reactant | 6-bromo-7-(2,4-difluorophenoxy)-2,5-dimethylpyrazolo[1,5-a]pyrimidine | BrC=1C(=NC=2N(C1OC1=C(C=C(C=C1)F)F)N=C(C2)C)C | C14H10BrF2N3O
reactant | 6-methyl-1-[(4-methylphenyl)sulfonyl]-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,6-dihydro-7H-pyrrolo[2,3-c]pyridin-7-one | CN1C(C2=C(C(=C1)B1OC(C(O1)(C)C)(C)C)C=CN2S(=O)(=O)C2=CC=C(C=C2)C)=O | C21H25BN2O5S
product | 4-[7-(2,4-Difluorophenoxy)-2,5-dimethylpyrazolo[1,5-a]pyrimidin-6-yl]-6-methyl-1-[(4-methylphenyl)sulfonyl]-1,6-dihydro-7H-pyrrolo[2,3-c]pyridin-7-one | FC1=C(OC2=C(C(=NC=3N2N=C(C3)C)C)C=3C2=C(C(N(C3)C)=O)N(C=C2)S(=O)(=O)C2=CC=C(C=C2)C)C=CC(=C1)F | C29H23F2N5O4S
